US04814329
2-(2-diethylamino-ethylthio)-5-benzyl-benzimidazole dihydrochloride
6 g (25 mmoles) of 5-benzyl-benzimidazoline-2-thione, 5.16 g (30 mmoles) of 2-(diethylamino)-ethylchloride hydrochloride and 2.55 g of sodium hydrogen-carbonate are reacted in 40 ml of ethanol. After filtering off the inorganic salt and concentration of the solution, the title product is precipitated by hydrochloric ethanol.

reactant | 5-benzyl-benzimidazoline-2-thione | 25 mmoles, 6 g | C(C1=CC=CC=C1)C1=CC2=C(NC(N2)=S)C=C1 | C14H12N2S
reactant | 2-(diethylamino)-ethylchloride hydrochloride | 30 mmoles, 5.16 g | Cl.C(C)N(CCCl)CC
reactant | sodium hydrogen-carbonate | 2.55 g | C(O)([O-])=O.[Na+]
solvent | ethanol | 40 ml | C(C)O | C2H6O
product | 2-(2-diethylamino-ethylthio)-5-benzyl-benzimidazole dihydrochloride | Cl.Cl.C(C)N(CCSC=1NC2=C(N1)C=CC(=C2)CC2=CC=CC=C2)CC | InChI=1S/C20H25N3S.2ClH/c1-3-23(4-2)12-13-24-20-21-18-11-10-17(15-19(18)22-20)14-16-8-6-5-7-9-16;;/h5-11,15H,3-4,12-14H2,1-2H3,(H,21,22);2*1H
